US06369146B1
Di-sec-butyl-DL-malate was prepared using a procedure similar to Example 3. This compound was isolated as a bottoms product. To the reaction flask, DL-malic acid (80.23 g), 2-butanol (220 mL) and Amberlyst® 15 ion exchange resin (11.2 g) were added. The mixture was placed under nitrogen and heated to reflux. At 102° C., one phase started to collect in the Dean-Stark trap. The reaction was maintained at 102° C. for 4 hr. During this time, the water/alcohol azeotrope was removed as fresh alcohol was added. The product was dissolved in diethyl ether, separated from the catalyst via filtration over a bed of silica, washed with saturated sodium bicarbonate a number of times, washed once with water, and dried over magnesium sulfate. Diethyl ether was removed via rotary evaporation. Di-sec-butyl-DL-malate was obtained as a low viscosity, clear light yellow liquid with no detectable odor (46 g, 31% yield) after pumping on the sample in vacuo to remove residual 2-butanol.

reactant | DL-malic acid | 80.23 g | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | 2-butanol | 220 mL | CC(CC)O | C4H10O
product | Di-sec-butyl-DL-malate | C(C)(CC)OC(C(O)CC(=O)OC(C)CC)=O | C12H22O5
